US08871753B2
Step A. 4-Bromo-1-(isopropylthio)-2-nitrobenzene
4-Bromo-1-fluoro-2-nitrobenzene (1.0 g, 4.5 mmol) [Aldrich] and potassium carbonate (1.6 g, 11 mmol) were stirred in N,N-dimethylformamide (10 mL), and 2-propanethiol (0.42 mL, 4.5 mmol) was added. The mixture was heated to 100° C. for 16 hours. The mixture was cooled to rt, diluted with water (100 mL), and extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate, and evaporated to give the desired compound (1.2 g, 96%). 1H NMR (300 MHz, CDCl3): δ 8.27 (s, 1H), 7.62 (d, 1H), 7.38 (d, 1H), 3.55 (m, 1H), 1.40 (d, 6H).

reactant | 4-Bromo-1-fluoro-2-nitrobenzene | 4.5 mmol, 1.0 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | potassium carbonate | 11 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propanethiol | 4.5 mmol, 0.42 mL | CC(C)S | C3H8S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-Bromo-1-(isopropylthio)-2-nitrobenzene | 1.2 g, 96% | BrC1=CC(=C(C=C1)SC(C)C)[N+](=O)[O-] | C9H10BrNO2S
